US06376491B1
To a cooled (−30° C.) solution of [3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-4-yloxy)-benzofuran-2-yl]-methanol (30 mg), 2-ethoxymethyl-benzofuran-5-ol (16 mg) and 1,1′-azobis(N,N-dimethylformamide) (37 mg) in THF (1 ml) was added tributylphosphine (53 μl) and the resulting solution was stirred overnight at −30° C. The resulting suspension was diluted with ethyl acetate, washed with water and brine, dried over anhydrous sodium sulfate and evaporated to dryness. The residue was purified by preparative thin layer chromatography (using dichloromethane:MeOH=20:1 as a developing solvent) to give 3-[4-[2-(2-ethoxymethyl-benzofuran-5-yloxymethyl)-3-methyl-benzofuran-4-yloxy]-piperidin-1-ylmethyl]-pyridine (27 mg) as a colorless oil. FAB-MS: m/z 527 (MH+); 1H-NMR (CDCl3): δ 1.26 (3H, t, J=7 Hz), 1.99 (4H, m), 2.41 (3H, s), 2.42 (2H, m), 2.70 (2H, m), 3.55 (2H, s), 3.61(2H, q, J=7 Hz), 4.52 (1H, m), 4.58 (2H, s), 5.10 (2H, s), 6.60 (1H, d, J=8 Hz), 6.63 (1H, s), 6.97 (1H, dd, J1=9 Hz, J2=2.5 Hz), 7.03 (1H, d, J=8 Hz), 7.15 (1H, t, J=8 Hz), 7.15 (1H, d, J=2.5 Hz), 7.26 (1H, dd, J1=8 Hz, J2=5 Hz), 7.37 (1H, d, J=9 Hz), 7.68 (1H, dt, J1=8 Hz, J2=2 Hz),8.51 (1H, dd, J1=5 Hz, J2=2 Hz), 8.56 (1H, d, J=2 Hz).

reactant | [3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-4-yloxy)-benzofuran-2-yl]-methanol | 30 mg | CC1=C(OC2=C1C(=CC=C2)OC2CCN(CC2)CC=2C=NC=CC2)CO | C21H24N2O3
reactant | 2-ethoxymethyl-benzofuran-5-ol | 16 mg | C(C)OCC=1OC2=C(C1)C=C(C=C2)O | C11H12O3
reactant | 1,1′-azobis(N,N-dimethylformamide) | 37 mg | N(=NC(=O)N(C)C)C(=O)N(C)C | C6H12N4O2
reactant | tributylphosphine | 53 μl | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-[2-(2-ethoxymethyl-benzofuran-5-yloxymethyl)-3-methyl-benzofuran-4-yloxy]-piperidin-1-ylmethyl]-pyridine | 27 mg | C(C)OCC=1OC2=C(C1)C=C(C=C2)OCC=2OC1=C(C2C)C(=CC=C1)OC1CCN(CC1)CC=1C=NC=CC1 | C32H34N2O5
